US04298529
Trifluoroacetic anhydride (1 ml.), anisole (1 drop) and dimethylformamide (1 drop) were added to a solution of 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 1 g.) in dry tetrahydrofuran (3 ml.) and stirred for 4 hours. After adding methanol (0.3 ml.) into the resultant solution, the solution was stirred for an hour and concentrated in vacuo. The residue was pulverized with diisopropyl ether. The precipitates were collected by filtration and dried over phosphorus pentoxide to give 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 0.82 g).

reactant | Trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 1 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)=O | C12H14BrN3O7S
reactant | methanol | 0.3 ml | CO | CH4O
catalyst | anisole | 1 drop | C1(=CC=CC=C1)OC | C7H8O
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 0.82 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
